US03991066
EXAMPLE 6: 3-(1,3,4,9b-Tetrahydro-5-methyl-2H-indeno[1,2-c]pyridin-2-yl) propionic acid amide
A mixture of 18.5 g of 1,3,4,9b-tetrahydro-5-methyl-2H-indeno[1,2-c]pyridine and 7.1 g of acrylamide in 250 cc of ethanol is boiled at reflux for 6 hours. The reaction mixture is evaporated to dryness, and the resulting title compound is recrystallized from ethanol. M.P. 169°-170°.

reactant | 1,3,4,9b-tetrahydro-5-methyl-2H-indeno[1,2-c]pyridine | 18.5 g | CC=1C2=CC=CC=C2C2CNCCC21 | C13H15N
reactant | acrylamide | 7.1 g | C(C=C)(=O)N | C3H5NO
solvent | ethanol | 250 cc | C(C)O | C2H6O
product | 3-(1,3,4,9b-Tetrahydro-5-methyl-2H-indeno[1,2-c]pyridin-2-yl) propionic acid amide | CC=1C2=CC=CC=C2C2CN(CCC21)CCC(=O)N | C16H20N2O
